Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / Niacin
 
Attending: ___.
 
Chief Complaint:
R 1 and 2 toe gangrene
 
Major Surgical or Invasive Procedure:
right foot ___ and ___ toe ray amputation

 
History of Present Illness:
___ w/afib (no AC), CAD s/p CABGx3, aortic stenosis s/p AVR, PVD
s/p R CFA and profunda endarterectomy w/angioplasty and RLE 
angio
here for R ___ and ___ toe amp. Patient had previously presented
in ___ to ___ with right first and ___ toe dry gangrene. He
underwent a right common femoral artery and profunda femoral
endarterectomy with bovine patch angioplasty and right lower
extremity angiography during this admission. He represents today
for R ___ and ___ toe amputation and debridement. 
 
Past Medical History:
Hypertension
CAD s/p CABG x 3
Diabetes mellitus type ___
Mitral Regurgitation
Aortic stenosis s/p AVR
Hyperlipidemia 

 
Social History:
___
Family History:
father deceased ___s myocardial infarction
mother deceased ___' myocardial infarction 
diabetes
 
Physical Exam:
Admission Exam:
VS: 98.4, 65, 136/47, 22, 98% 2.5L NC
PE: R ___ and ___ toe gangrene with erythema and swelling
extending more proximal to the 2 digits
R: //d/d; L: //d/d

Discharge exam:
98.3PO 120 / 54 68 20 93 2L 
General: Awake and alert, NAD
Respiratory: No distress
Extremities: RLE with wound vac in place
Pulses: L:P/d/d/d R: d/-/d/d 
 
Pertinent Results:
Admission Labs:

___ 10:10PM   GLUCOSE-299* UREA N-35* CREAT-1.4* SODIUM-144 
POTASSIUM-5.4* CHLORIDE-100 TOTAL CO2-32 ANION GAP-12
___ 10:10PM   estGFR-Using this
___ 10:10PM   CALCIUM-8.6 PHOSPHATE-3.6 MAGNESIUM-2.3
___ 10:10PM   WBC-5.6 RBC-2.76* HGB-8.1* HCT-27.3* MCV-99* 
MCH-29.3 MCHC-29.7* RDW-15.2 RDWSD-54.8*
___ 10:10PM   PLT COUNT-151
___ 10:10PM   ___ PTT-30.3 ___

Discharge Labs:

___ 08:10AM BLOOD WBC-6.3 RBC-2.38* Hgb-7.0* Hct-23.9* 
MCV-100* MCH-29.4 MCHC-29.3* RDW-14.9 RDWSD-54.2* Plt ___
___ 08:10AM BLOOD Glucose-226* UreaN-29* Creat-1.4* Na-141 
K-5.3* Cl-99 HCO3-25 AnGap-17*
 
Brief Hospital Course:
The patient was admitted to the vascular surgery inpatient 
service for Right ___ and second toe amputation. He was taken to 
the OR for this procedure on HD2. For complete details of the 
procedure, see op note. He was treated during his 
hospitalization with vancomycin, ciprofloxacin, and flagyl. This 
was narrowed upon discharge to two weeks of Augmentin. On HD 3, 
light hemorrhage was noted at his wound. This was treated with 
silver nitrate and surgical and hemostasis was achieved. On HD 
4, there continued to be good hemostasis and a wound vac was 
placed. 

At the time of discharge, the patient's vital signs were stable. 
He was tolerating a regular diet and voiding spontaneously. He 
was discharged with 14 days of augmentin and plans to follow up 
to the vascular surgery outpatient clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Furosemide 40 mg PO DAILY 
9. GlipiZIDE 5 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Acetaminophen 650 mg PO Q6H 
12. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  TraMADol 25 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth q4 hours 
Disp #*8 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H  
3.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*28 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Finasteride 5 mg PO DAILY  
8.  Fish Oil (Omega 3) 1000 mg PO BID  
9.  Furosemide 40 mg PO DAILY  
10.  GlipiZIDE 5 mg PO BID  
11.  Metoprolol Succinate XL 100 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R ___ toe gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for Right first and second toe 
amputation. You have progressed well after your operation and 
are now ready for discharge. Please follow the instructions on 
your discharge paperwork to help ensure a good recovery process. 
A wound vac was placed over your amputation site. You were sent 
home with wound vac supplies which will be used by the visiting 
nurse to change the vac every 3 days. You should take your 
antibiotic for two weeks. You will follow up with the vascular 
surgery outpatient clinic as listed below. 

Sincerely, 
You ___ Team
 
Followup Instructions:
___